US09034899B2
A mixture of 4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate (100 mg, 0.23 mmol) which was prepared in Step G of Example 11, 2-cyanophenylboronic acid (51 mg, 0.35 mmol) and cesium carbonate (225 mg, 0.69 mmol) in water (1 mL) and N,N-dimethylformamide (2 mL) was degassed with argon and then [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (8 mg, 0.01 mmol) was added. The mixture was degassed again and then heated to 90° C. for 3 hours. The mixture was partitioned between water and ethyl acetate (3×) and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was partially purified by preparative thin-layer chromatography (1:4 hexanes/ethyl acetate) to give 2-(4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)benzonitrile (57 mg, 63%) as a brown solid: ESI MS m/z 393, 395 [M+H]+.

reactant | 4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate | 0.23 mmol, 100 mg | FC(S(=O)(=O)OC1=CC=C2C(CN(CC2=C1)C)C1=CC(=C(C=C1)Cl)Cl)(F)F | C17H14Cl2F3NO3S
reactant | 2-cyanophenylboronic acid | 0.35 mmol, 51 mg | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | cesium carbonate | 0.69 mmol, 225 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 1 mL | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-(4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)benzonitrile | 57 mg, 63% | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)C1=C(C#N)C=CC=C1)C | C23H18Cl2N2
